US08168802B2
A solution of isoamylnitrite (6.1 mL, 45 mmol) and diiodomethane (20 mL) was heated at 85° C. under a nitrogen atmosphere. A solution of 5-amino-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile (2.50 g, 12.1 mmol) in chloroform (60 mL) was added over a period of 30 minutes. The temperature reached 70° C. during the addition. The reaction was heated for an additional 15 minutes, allowed to cool to room temperature, and concentrated under reduced pressure. The residue was purified by suction filter chromatography on silica gel (eluting with a gradient of 10% to 25% ethyl acetate in hexane) to provide 2.88 g (75%) of 5-iodo-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile as an orange oil that crystallized upon standing.

reactant | isoamylnitrite | 45 mmol, 6.1 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | diiodomethane | 20 mL | ICI | CH2I2
reactant | 5-amino-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile | 12.1 mmol, 2.50 g | NC1=C(N=C(N1CC(C)C)CCC)C#N | C11H18N4
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-iodo-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile | 2.88 g, 75% | IC1=C(N=C(N1CC(C)C)CCC)C#N | C11H16IN3
